US07749998B2
c) N-[1-(4-biphenylyl)-2-(4-morpholinyl)ethyl]-2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methylacetamide
To a solution of [1-(4-biphenylyl)-2-(4-morpholinyl)ethyl]methylamine (3.67 g, 12.4 mmol) and (6,7-dichloro-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetic acid (3.42 g, 12.4 mmol) in DMF (50 mL) was added BOP Reagent (8.23 g, 18.6 mmol) followed by triethylamine (3.76 g, 37.2 mmol). The resultant mixture was stirred at room temperature for 16 h. The mixture was concentrated under reduced pressure, diluted with ethyl acetate (150 mL), and extracted with 5% NaHCO3 (100 mL) and brine (100 mL). The organic layer was dried (MgSO4) and concentrated. The residue was purified by silica gel chromatography (330 g redisep column, silica 40 um, 60 A, 100 ml/min, A: MeOH, B: CH2Cl2, A: 1% for 30 min) to give 4.08 g (59%) of title compound as a white solid. MS (ES) m/e 554.4 [M+H]+.

reactant | [1-(4-biphenylyl)-2-(4-morpholinyl)ethyl]methylamine | 12.4 mmol, 3.67 g | C1(=CC=C(C=C1)C(CN1CCOCC1)NC)C1=CC=CC=C1 | C19H24N2O
reactant | (6,7-dichloro-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetic acid | 12.4 mmol, 3.42 g | ClC=1C(=CC2=C(N(CCO2)CC(=O)O)C1)Cl | C10H9Cl2NO3
reactant | BOP Reagent | 18.6 mmol, 8.23 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 37.2 mmol, 3.76 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | N-[1-(4-biphenylyl)-2-(4-morpholinyl)ethyl]-2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methylacetamide | 4.08 g, 59% | C1(=CC=C(C=C1)C(CN1CCOCC1)N(C(CN1C(COC2=C1C=C(C(=C2)Cl)Cl)=O)=O)C)C2=CC=CC=C2 | C29H29Cl2N3O4
